US08314097B2
A suspension of 4-(6,7-Dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)-3-((E)-propenyl)benzonitrile (0.150 g, 0.602 mmol), 20% (w/w) palladium on carbon (0.040 g), THF (15 mL), and EtOH (15 mL) is stirred under an atmosphere of hydrogen (1 atm) for 60 h. The suspension is the filtered and the filtrate concentrated. The residue is then purified by flash chromatography (Hexane/EtOAc, and then 10% MeOH/EtOAc) to give 4-(6,7-Dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)-3-(n-propyl)benzonitrile as a white solid. MS (ESI) m/z 252.1 (M+H); 1H NMR (400 MHz, CDCl3) δ ppm 1.04 (t, J=7.3 Hz, 3 H), 1.63-1.77 (m, 2 H), 2.33-2.45 (m, 1 H), 2.62-2.80 (m, 2 H), 2.92 (app t, J=7.1 Hz, 2 H), 3.04-3.19 (m, 1 H), 5.58 (dd, J=7.8, 5.6 Hz, 1 H), 6.73 (d, J=8.1 Hz, 1 H), 6.81 (s, 1 H), 7.25 (s, 1 H), 7.41 (d, J=8.1 Hz, 1 H), 7.51 (s, 1 H).

reactant | 4-(6,7-Dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)-3-((E)-propenyl)benzonitrile | 0.602 mmol, 0.150 g | C1=C2N(C=N1)C(CC2)C2=C(C=C(C#N)C=C2)\C=C\C | C16H15N3
reactant | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 0.040 g | [Pd] | Pd
solvent | EtOH | 15 mL | CCO | C2H6O
product | 4-(6,7-Dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)-3-(n-propyl)benzonitrile | C1=C2N(C=N1)C(CC2)C2=C(C=C(C#N)C=C2)CCC | C16H17N3
